US09024027B2
To a solution of 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid (120 mg, 0.326 mmol) in DCM (10 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (137 mg, 0.326 mmol), EDC (187 mg, 0.977 mmol) and DMAP (19.90 mg, 0.163 mmol) were added, and the mixture was reacted at room temperature for 6 hours. The mixture was portioned between DCM and 1N HCl (50 ml) and the desired compound was extracted with DCM (3×50 ml). Crude (S)-4-(2-(2-(5-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide was obtained and used in the next step without any additional purification (170 mg, 0.221 mmol, 68% yield). MS/ESI+ 770.1 [MH]+.

reactant | 2-(5-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.326 mmol, 120 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C2C=CN(C2=CC1)CC(=O)O | C16H20N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.326 mmol, 137 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.977 mmol, 187 mg
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.163 mmol, 19.90 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-4-(2-(2-(5-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 68% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C=1C=C2C=CN(C2=CC1)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C34H35Cl2F2N3O9S
